US06521754B2
N-(4-Methoxy-7-phenyl-benzothiazol-2-yl)-benzamide
To a solution of 2-amino-4-methoxy-7-phenyl-benzothiazole (100 mg, 0.4 mmol) in pyridine (2 ml) was added benzoyl chloride (55 mg, 0.4 mmol) and the mixture stirred overnight at 20 ° C. To this mixture 2N HCl to pH 1 (20 ml) was added then the mixture was extracted twice with EtOAc (20 ml), washed with saturated NaHCO3 solution, dried with Na2SO4 and the solvent evaporated. The crude product was then chromatographed over SiO2 (Merck 230-400 mesh) eluting with CH2Cl2/MeOH (98:2), the product fractions were pooled and the solvent evaporated, to afford the title compound as a white solid (97 mg, 69% yield), MS: m/e=360 (M+).

reactant | 2-amino-4-methoxy-7-phenyl-benzothiazole | 0.4 mmol, 100 mg | NC=1SC2=C(N1)C(=CC=C2C2=CC=CC=C2)OC | C14H12N2OS
reactant | benzoyl chloride | 0.4 mmol, 55 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | HCl | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-Methoxy-7-phenyl-benzothiazol-2-yl)-benzamide | 97 mg, 69% yield | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=CC=C2)=O)C2=CC=CC=C2 | C21H16N2O2S
